US04022814
Using the procedure of B. Gaux and D. LeHenaff, Bull. Soc. Chim. Fr. 34, 505 (1974), 2,3,5-triiodobenzoic acid (Aldrich) was treated with lithium aluminum hydride to give 3,5-diiodobenzyl alcohol mp 136.5°-140° (lit 137°). Using the procedure outlined in Example 4, 3,5-diiodobenzyl alcohol was treated with n-hexyl chloroformate giving s (ND25 = 1.5800).

reactant | 2,3,5-triiodobenzoic acid | IC1=C(C(=O)O)C=C(C=C1I)I | C7H3I3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3,5-diiodobenzyl alcohol | IC=1C=C(CO)C=C(C1)I | C7H6I2O
